Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Erectile Dysfunction
 
Major Surgical or Invasive Procedure:
INSERTION OF PENILE PROSTHESIS

 
History of Present Illness:
___ w a hx of CaP s/p robotic prostatectomy c/b retained 
prostate requiring XRT and bladder neck contracture now s/p 
ambicor penile prosthesis placement. 

Mr. ___ is a ___ man with history of
___ 6 prostate adenocarcinoma status post radical
prostatectomy in ___.  His PSA was never undetectable. 
He had an MRI in ___, which showed residual tissue in the
right peripheral zone.  There was a right lobe in the right
medial mid-to-right mid apex as well as the left medial base to
the left medial mid gland.  He had a bone scan and CT abdomen 
and
pelvis, which were negative.  Pathology from biopsy on ___, to this remnant tissue showed the right apex lateral
___ 3+3=6 involving 40%, right mid medial ___ 3+3=6
involving 30%, right base lateral ___ 3+3=6 involving 50%,
right base medial ___ 3+3=6 involving 50%, with perineural
invasion.  He had a total of 4 out of 12 positive biopsies.  The
patient was seen by Dr. ___ treated from ___, 
to
___, with 72 Gy in 180 cGy fractions to the
residual prostate. 

He was seen by Dr. ___ on ___, where a PSA
was found to be 1.2.  
 
Past Medical History:
Urinary: His moderate LUTS is tolerable to him and although he
has mixed feeling about his occasional dribbling, he does not 
use
urinary incontinence pads and has taken measures to take more
time to finish his void.  This is more related to an end of
stream dribble vs a stress incontinence dribble.

Sexual: He has tried Viagra and did not have success with it ___
years ago.  He is very interested in exploring other options to
help with giving him an erection.

Past Medical History:
1.  Hypertension.
2.  Hearing loss in the right ear.
3.  Migraines, but none recently.

Past Surgical History:
1.  Appendectomy in ___.
2.  Robotic-assisted laparoscopic prostatectomy in ___.
 
Social History:
___
Family History:
Negative for GU malignancy
 
Physical Exam:
WdWn male, NAD, AVSS
Interactive, cooperative
Abdomen soft, Nt/Nd
Hemiscrotum Incision c/d/i w/out evidence hematoma or infection
Ecchymosis at penile shaft/scrotum noted but without induration
Lower extremities w/out edema or pitting and no report of calf 
pain 
 
Pertinent Results:
none for this admission
 
Brief Hospital Course:
Mr. ___ was admitted to Dr. ___ service for 
placement of penile prosthesis. No concerning intraoperative 
events occurred but traditional foley catheter was not placed 
secondary to stricture; please see dictated operative note for 
details. The patient received vancomycin and gentamicin for 
pre-operative infection prophylaxis and post-operatively for 
prophylaxis. Post-op course was uncomplicated. He arrived to 
PACU and general floor with ___ open-ended catheter which 
was serving as a urine drain from his bladder and was secured in 
place with suture.  This was removed postoperatively on POD 1 
and he was able to void without difficulty.  At discharge, 
patient's pain was well controlled with oral pain medications, 
tolerating regular diet, ambulating without assistance, and 
voiding without difficulty. Incision at discharge without 
erythema or hematoma. Specific instructions about prosthesis 
care given, and also included in this discharge summary.
 
Medications on Admission:
Tylenole, Ibuprofen prn
 
Discharge Medications:
1. Ciprofloxacin HCl 500 mg PO Q12H Duration: 7 Days 
RX *ciprofloxacin 500 mg ONE tablet(s) by mouth twice a day Disp 
#*14 Tablet Refills:*0
2. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ONE tablet(s) by mouth Q4hrs Disp #*40 Tablet 
Refills:*0
3. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg ONE capsule(s) by mouth 
twice a day Disp #*60 Capsule Refills:*0
4. Acetaminophen ___ mg PO Q6H:PRN pain, fever>100 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Prostate cancer, erectile dysfunction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please also refer to the instructions provided to you by the 
manufacturer

-Do NOT pull down on implanted bulbs in scrotum.

-ALWAYS call to inform, review and discuss any medication 
changes and your post-operative course with your primary care 
doctor.

-___ keep your phallus at midline, pointed toward your 
umbilicus, taped in place with protective gauze if necessary for 
the next week. Of course you may point it downward for voiding.

-over the next several days you may experience some increased 
swelling of your phallus and scrotum resembling a semi-rigid 
phalus (semi-erect); this is normal.  This may be accompanied by 
discoloration (ecchymosis) involving the phallus and the 
scrotum; this too is normal and will gradually resolve.

-Please remove the surgical dressing over penis and/or under 
scrotum on post-operative day two: no further wound care is 
needed and you may leave the wound open to air. Wear 
comfortable, loose fitting briefs or boxer-briefs for 
support--they should be cotton and/or breathable

-Do NOT use prosthesis for 6 weeks and until explicitly advised 
by your urologist

-Complete a 7 day course of antibiotics as directed 

-You may shower, but do NOT bathe, swim or otherwise immerse 
your incision.  

-Do not lift anything heavier than a phone book and no sports, 
vigorous physical activity (including ___ 

-Tylenol should be your first line pain medication, a narcotic 
pain medication has been prescribed for breakthough pain >4.  
Replace Tylenol with narcotic pain medication.  Max daily 
Tylenol dose is 4gm, note that narcotic pain medication also 
contains Tylenol (acetaminophen) 

-Do not drive or drink alcohol while taking narcotics and do not 
operate dangerous machinery

-Colace has been prescribed to avoid post surgical constipation 
and constipation related to narcotic pain medication, 
discontinue if loose stool or diarrhea develops.  Colace is a 
stool "softener"- it is NOT a laxative

-Resume all of your home medications, except hold NSAID 
(aspirin,  and ibuprofen containing products such as advil & 
motrin) for ONE week or until you see your urologist in 
follow-up OR you are explicitly advised to resume sooner by your 
PCP, ___ or Cardiologist

-If you have fevers > 101.5 F, vomiting, or increased redness, 
swelling, or discharge from your incision, call your doctor or 
go to the nearest emergency room.  
 
Followup Instructions:
___